US07259183B2
Preparation of (4-tert-butyl-benzyl)-[2-(tetrahydro-thiopyran-4-yl)-ethyl]-amine
0.44 ml of 4-tert-butylbenzylamine (2.5 mmol) and 541 mg (tetrahydro-thiopyran-4-yl)-acetaldehyde (3.75 mmol) were dissolved in 7.5 ml methanol and stirred for 30 min at rt and then refluxed for 2.5 h. After cooling down to rt, 114 mg (3 mmol) of sodium borohydride were added and after stirring for 15 min at rt, the reaction mixture was refluxed for 2¾ h. After cooling down to rt, the reaction mixture was treated with 5 drops 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (90 g silica gel; EtOAc/heptane 1:2 then EtOAc) to give 632 mg light yellow viscous oil (87%). MS (ISP) 292.3 (M+H)+.

reactant | 4-tert-butylbenzylamine | 2.5 mmol, 0.44 ml | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | (tetrahydro-thiopyran-4-yl)-acetaldehyde | 3.75 mmol, 541 mg | S1CCC(CC1)CC=O | C7H12OS
reactant | sodium borohydride | 3 mmol, 114 mg | [BH4-].[Na+]
solvent | methanol | 7.5 ml | CO | CH4O
catalyst | HCl | 1 N, 5 drops | Cl | ClH
product | (4-tert-butyl-benzyl)-[2-(tetrahydro-thiopyran-4-yl)-ethyl]-amine | 87% | C(C)(C)(C)C1=CC=C(CNCCC2CCSCC2)C=C1 | C18H29NS
